US08426437B2
This compound is prepared according to synthesis 79 from 75 mg (0.33 mmol) of 4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 75) and 40 μL (0.36 mmol) of benzylamine. After recrystallization from methanol, 8 mg (8%) of N-(benzyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxamide is obtained in the form of a white solid.

reactant | 4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.33 mmol, 75 mg | O=C1NC=2C=CC=CC2C2=C1NC=C2C(=O)O | C12H8N2O3
reactant | benzylamine | 0.36 mmol, 40 μL | C(C1=CC=CC=C1)N | C7H9N
product | N-(benzyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxamide | 8 mg, 8% | C(C1=CC=CC=C1)NC(=O)C1=CNC=2C(NC=3C=CC=CC3C21)=O | C19H15N3O2
